Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I cut my arm"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with self-reported
history of depression and ADHD, undiagnosed anxiety, who was
brought in by ambulance after her boyfriend called ___ because
patient had cut her wrist with a steak knife in a suicide
attempt. Psychiatry was consulted for safety evaluation.

Patient reported that last night, she went out with friends to 
an
___ pub and ___ bar and had three drinks. She then went
home with her boyfriend and they got into a small argument. She
went into the living room to cry and calm down, which she
normally does when she feels emotionally distressed. Her
boyfriend's roommate heard her crying and came out to the living
room and said that she was being a "nuisance" and that if she 
was
staying with them on the weekends, she should "chip in". Patient
then ran into the kitchen, grabbed the first knife she could
(thinks it was a steak knife) and went to the pantry to cut
herself. She stated she cut her wrist with the intention of
ending her life because she wanted to be "less trouble for
everyone else; it was more for them than it was for me." She
acknowledged that she was intoxicated at the time but that she
was aware her cutting was a suicide attempt. She stumbled out of
the pantry and recalled tripping and falling. Her boyfriend then
found her and called ___.

Patient reported feeling "awfully depressed" since the Fall with
symptoms typically worse in the ___. She endorsed difficulty
falling asleep and getting consistent sleep every night.
Sometimes she cannot fall asleep until 1AM, other times she 
feels
so tired she falls asleep by 7PM ranging from ___ of
sleep/night. She denied any change in her interest, motivation,
appetite, concentration or memory. She reported high energy with
increased "fidgeting and pacing". She gained some weight in 
early
fall and has intentionally lost 8lbs in the last month. She
denied SI or HI at this time.

She denied any symptoms of mania or psychosis. She endorsed
generalized anxiety with rumination and feels the anxiety is
greatly impairing her functioning. She often cannot do 
activities
she wants to do due to overthinking and feeling "paranoid" about
what others would think of her. She endorsed episodes of panic
attacks in the past, last in ___ with SOB and palpitation.
She endorsed restrictive eating and over exercising at age ___,
but none since. At the time was 5'7" weighing 109lb.

Collateral from parents ___ and ___, present in ED, 
with
patient's permission:
___ has been concerned about patient for some time.  Stated
that patient has been depressed and anxious and that patient is
"constantly feeling guilty". Reported self-injurious behavior of
face picking, no history of suicide attempts. They stated that
patient is someone who tends to "put on a happy face" but they
have been concerned about her depression and anxiety recently. 
 
Past Medical History:
No past medical history
 
Social History:
___
Family History:
Mother, maternal aunt and maternal grandmother with depression.
Same maternal aunt with alcohol abuse, history of DTs.
Denied history of suicide attempts or other alcohol or substance
abuse in family.
 
Physical Exam:
*VS:  T 98.5, HR 70, BP 128/72, RR 16, O2 sat 100% RA  

Neurological:  
 *station and gait: did not assess
 *tone and strength: moving all extremities antigravity
 cranial nerves: grossly intact
 abnormal movements: question facial twitch/neck jerk
intermittently; no tremors

Cognition: 
 Wakefulness/alertness: awake, alert
 *Attention (digit span, MOYB): MOYB accurately
 *Orientation: full to place, name; date off by 1 day
 *Memory:   ___ recall at 5 mins
 *Fund of knowledge:  appropriate, knows last 3 presidents and
able to name ___ play
 Calculations:  $1.75 = 7 quarters
 Abstraction:  apples/oranges = "fruits", bikes/trains =
"locomotive, transportation"
*Speech:  normal rate, volume, tone, prosody
 *Language:  ___, fluent, no paraphasic errors
 
Mental Status:
 *Appearance:  Caucasian woman dressed in hospital gown, lying 
in
gurney in NAD, left wrist wrapped in gauze covering several
horizontal superficial lacerations, about 2 inches long - two
with some dried blood, anxious appearing, swollen eyes
 Behavior:  calm, cooperative, at times playing with/wringing
hands
 *Mood and Affect: "awfully depressed" / dysphoric, but 
reactive,
tearful at times
 *Thought process / *associations:  linear, goal-directed, no 
LOA
 *Thought Content:  denied current SI/HI, AVH; no delusions
presents
 *Judgment and Insight:  poor/limited
 
Pertinent Results:
___ 08:30AM URINE  HOURS-RANDOM
___ 08:30AM URINE  UCG-NEGATIVE
___ 08:30AM URINE  UHOLD-HOLD
___ 08:30AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-POS oxycodn-NEG mthdone-NEG
___ 08:30AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 08:30AM URINE  RBC-<1 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 08:30AM URINE  MUCOUS-RARE
___ 04:17AM   GLUCOSE-92 UREA N-7 CREAT-0.8 SODIUM-141 
POTASSIUM-3.8 CHLORIDE-102 TOTAL CO2-26 ANION GAP-17
___ 04:17AM   estGFR-Using this
___ 04:17AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:17AM URINE  HOURS-RANDOM
___ 04:17AM URINE  HOURS-RANDOM
___ 04:17AM URINE  HOURS-RANDOM
___ 04:17AM URINE  UHOLD-HOLD
___ 04:17AM URINE  GR HOLD-HOLD
___ 04:17AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-POS oxycodn-NEG mthdone-NEG
___ 04:17AM   WBC-7.3 RBC-4.42 HGB-13.2 HCT-39.4 MCV-89 
MCH-29.9 MCHC-33.5 RDW-12.3 RDWSD-40.2
___ 04:17AM   NEUTS-65.7 ___ MONOS-6.4 EOS-5.1 
BASOS-1.1* IM ___ AbsNeut-4.79 AbsLymp-1.56 AbsMono-0.47 
AbsEos-0.37 AbsBaso-0.08
___ 04:17AM   PLT COUNT-259
 
Brief Hospital Course:
PSYCHIATRIC
#)Substance induced mood disorder vs Major Depressive Disorder
On admission, patient was tearful and anxious. She denied 
suicidal ideation throughout the hospitalization. During 
hospitalization, she was restarted on her home medications, 
Vyvanse and Viibryd. She did well on these medications and her 
mood significantly improved with milieu, group and individual 
therapy. Psychoeducation was provided regarding the importance 
of abstinence from alcohol and continuing to keep all 
appointments with therapist. 

On discharge, mood was good, MSE was pertinent for euthymic 
affect, no suicidal ideation and linear thought process.

Safety: The patient remained in good behavioral control 
throughout this hospitalization and did not require physical or 
chemical restraint. The patient remained on 15 minute checks, 
which is our lowest acuity level of checks.

GENERAL MEDICAL CONDITIONS
No prior medical conditions

PSYCHOSOCIAL
#) MILIEU/GROUPS
The patient was highly animated, euthymic, and participatory in 
the milieu. The patient was very visible on the unit and 
frequently had conversations with her peers. She attended some 
groups. She never engaged in any unsafe behaviors. The patient 
ate all meals in the milieu, slept well, and cooperated with 
unit rules.

#) FAMILY CONTACTS
Family meeting was held with the patient's parents in which 
patients diagnosis and treatment were discussed. They understand 
and are in agreement with the current treatment and discharge 
plan.

#) COLLATERAL
We spoke with the patient's psychiatrist, who provided 
collateral regarding the history of patient's depression. She 
described history of impulsivity, which was also seen in the 
circumstances leading to this hospitalization. She is in 
agreement with discharge plan. 

LEGAL STATUS
The patient signed a CV at admission. She then signed a 
three-day notice on ___. 

RISK ASSESSMENT:
This patient does not abuse substances, is not 
suicidal/homicidal, is feeling well and is animated, euthymic, 
and participatory in the milieu, all of which indicate a low 
immediate risk of harm.

Static risk factors include:
-chronic and severe mental illness, prior suicide attempts
Modifiable risk factors include:
-active polysubstance misuse, acute major mood episode. We 
modified this risk by providing support to patient while 
inpatient and providing counseling regarding the importance of 
abstinence from alcohol. 
Protective factors include:
-Protective factors include current outpatient 
providers/treatment, strong connections to family and community 
support and skills in problem solving, conflict resolution and 
handling problems in a non-violent way. Current risk is low for 
intentional self-harm given that patient denies suicidal 
ideation, intent and plan, is accepting of treatment, is 
currently sober and is future oriented with plans to continue 
with college and attend partial program. 

INFORMED CONSENT
I discussed the indications for, intended benefits of, and 
possible side effects and risks of this medication, and risks 
and benefits of possible alternatives, including not taking the 
medication, with this patient.  We discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and I answered the patient's questions.  The 
patient appeared able to understand and consented to begin the 
medication.

PROGNOSIS:
Good due to the fact that patient has supportive family and good 
relationships with outpatient treaters. She is motivated to stop 
drinking and continue with treatment. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Viibryd (vilazodone) 60 mg oral DAILY 
2. Vyvanse (lisdexamfetamine) 30 mg oral DAILY 
3. Nortrel ___ (28) (norethin-e.estradiol triphasic) 
0.5/0.75/1 mg- 35 mcg oral DAILY 
This is dose #  of  tapered doses

 
Discharge Medications:
1. Nortrel ___ (28) (norethin-e.estradiol triphasic) 
0.5/0.75/1 mg- 35 mcg oral DAILY 
This is dose #  of  tapered doses
2. Viibryd (vilazodone) 60 mg oral DAILY 
3. Vyvanse (lisdexamfetamine) 30 mg oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Substance induced mood disorder

 
Discharge Condition:
Improved

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
 -Please continue all medications as directed.
 -Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
 -Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
 -Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___